US07141596B2
Step 1. tert-butyl [(1S)-2-[(2-aminophenyl)amino]-1-(3-bromo-4-iodobenzyl)-2-oxoethyl]carbamate
Benzyl (2S)-3-(3-bromo-4-iodophenyl)-2-[(tert-butoxycarbonyl)amino]propanoate (1.50 g, 2.68 mmol) was dissolved in acetonitrile (7.5 mL) and treated with 1.0 M of sodium hydroxide in water (5.4 mL). The solution was stirred at 25° C. for 30 min. The reaction was diluted with 1 N HCl solution and extracted with ethyl acetate three times, dried with sodium sulfate, filtered, and concentrated in vacuo. The crude was dissolved in DMF (4.0 mL) and treated with benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (1.03 g, 2.34 mmol) at 0° C. for 15 min. A solution of 1,2-benzenediamine (345 mg, 3.19 mmol) and N,N-diisopropylethylamine (1.85 mL, 10.6 mmol) in DMF (4.0 mL) was added to the reaction. The resulting mixture was warmed to room temperature for 2 h. The reaction was diluted with ethyl acetate and washed with saturated sodium bicarbonate solution (50 mL) and 1 N HCl solution (50 mL). The organic solutions were dried with sodium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by preparative LCMS to yield the desired product (0.71 g, 60%). 1H NMR (400 MHz, CDCl3): δ 7.85 (d, 1H), 7.62 (s, 1H), 7.25–6.98 (m, 5H), 4.40 (t, 1H), 3.11 (dd, 1H), 2.91 (dd, 1H), 1.41 (s, 9H); LCMS found for C20H24BrIN3O3 (M+H)+: m/z=560, 562.

reactant | Benzyl (2S)-3-(3-bromo-4-iodophenyl)-2-[(tert-butoxycarbonyl)amino]propanoate | 2.68 mmol, 1.50 g | BrC=1C=C(C=CC1I)C[C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C | C21H23BrINO4
reactant | sodium hydroxide | 1.0 M | [OH-].[Na+]
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 2.34 mmol, 1.03 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 1,2-benzenediamine | 3.19 mmol, 345 mg | C=1(C(=CC=CC1)N)N | C6H8N2
reactant | N,N-diisopropylethylamine | 10.6 mmol, 1.85 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 7.5 mL | C(C)#N | C2H3N
solvent | water | 5.4 mL | O | H2O
solvent | HCl | 1 N | Cl | ClH
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl [(1S)-2-[(2-aminophenyl)amino]-1-(3-bromo-4-iodobenzyl)-2-oxoethyl]carbamate | 0.71 g, 60% | NC1=C(C=CC=C1)NC([C@H](CC1=CC(=C(C=C1)I)Br)NC(OC(C)(C)C)=O)=O | C20H23BrIN3O3
